US06720322B2
To a slurry of 0.34 g of sodium hydride in 15 ml of DMF and 4 ml of DMPU 2.4 g of 2-butyne-1,4-diol was added at room temperature. The mixture was stirred until no more gas evolved. Then 0.67 g of 5-isopropyl-N-[6-chloro-5-(p-tolyl)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide was added and the mixture was stirred at 90° C. for 48 h. The solvent was removed in vacuo and the residue was taken up in 100 ml of 10% aqueous acetic acid. The mixture was extracted three times with 100 ml of ethyl acetate. The combined organic layers were washed with water and brine, dried over MgSO4 and evaporated. The resulting brown oil was purified by column chromatography on silica gel eluting with DCM containing 4-10% of methanol. This furnished a fraction which after recrystallisation from DCM: ethyl acetate gave 43 mg of 5-isopropyl-N-[6-(4-hydroxy-2-butynyloxy)-5-(p-tolyl)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide as pale yellow crystals. A second fraction gave 456 mg of 5-isopropyl-N-[6-(4-hydroxy-2-butynyloxy)-5-(p-tolyl)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide with about 90% purity as a brown oil. LC-MS: tR=4.53 min, [M+1]+=530.23, [M−1]−=528.21.

reactant | sodium hydride | 0.34 g | [H-].[Na+]
reactant | DMPU | 4 ml, 2.4 g | CN1CCCN(C1=O)C | C6H12N2O
reactant | 2-butyne-1,4-diol | C(C#CCO)O | C4H6O2
reactant | 5-isopropyl-N-[6-chloro-5-(p-tolyl)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 0.67 g | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1C1=CC=C(C=C1)C)Cl)C1=CC=NC=C1 | C24H22ClN5O2S
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-isopropyl-N-[6-(4-hydroxy-2-butynyloxy)-5-(p-tolyl)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 43 mg | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1C1=CC=C(C=C1)C)OCC#CCO)C1=CC=NC=C1 | C28H27N5O4S
